US06492370B1
1-[(2S)-2-[3-[2-(Benzoylthio)ethyl]-3-phenethylureido]propionyl]-4-methylpiperazine (Compound No. 32-1)
1-[(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]propionyl]-4-methylpiperazine (Compound No. 30-1, 32.9 g)is dissolved in chloroform (87 ml) under a nitrogen atmosphere, and the solution is stirred. To the solution are added triethylamine (13.3 ml) and then benzoyl chloride (10.1 ml )dropwise under ice cooling, and the mixture is stirred for 25 minutes. The reaction mixture is concentrated under reduced pressure, a 10% aqueous sodium hydrogencarbonate solution is added to the residue, and the whole is extracted with ethyl acetate. The organic layer is washed with a 10% aqueous sodium hydrogencarbonate solution, water and saturated brine successively, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting oily matter is purified by silica gel column chromatography to give the titled compound (Compound No. 32-1).

reactant | 1-[(2S)-2-[3-(2-Mercaptoethyl)-3-phenethylureido]propionyl]-4-methylpiperazine | 32.9 g | SCCN(C(N[C@H](C(=O)N1CCN(CC1)C)C)=O)CCC1=CC=CC=C1 | C19H30N4O2S
reactant | triethylamine | 13.3 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | chloroform | 87 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(2S)-2-[3-[2-(Benzoylthio)ethyl]-3-phenethylureido]propionyl]-4-methylpiperazine | C(C1=CC=CC=C1)(=O)SCCN(C(N[C@H](C(=O)N1CCN(CC1)C)C)=O)CCC1=CC=CC=C1 | C26H34N4O3S
